US06414149B1
Step B: 1-Methyl-3-oxo-2-quinoxalin-2-yl-1,2,3,4,6,7-hexahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester
To a solution of 3-oxo-2-quinoxalin-2-yl-1,2,3,4,6,7-hexahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (prepared according to the method of Example 75, Step A, 250 mg, 0.68 mmol) in dimethylformamide (2 mL) at 0° C. with stirring under nitrogen was added sodium hydride (60% dispersion in mineral oil, 41 mg, 1.02 mmol). After 10 min, iodomethane (51 μL, 0.82 mmol) was added. This mixture was allowed to stir at 0° C. for 2 h, quenched by addition of saturated aqueous sodium bicarbonate and extracted with ethyl acetate (4×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (40% ethyl acetate/hexanes) to give 164 mg (63%) of the title compound of Example 75, Step B as a yellow foam. 1H NMR (CDCl3, 250 MHz) δ9.71 (s, 1H), 8.15 (dd, 1H), 8.02 (m, 1H), 7.80-7.70 (c, 2H), 4.29 (s, 2H), 4.14 (t, 2H), 3.79 (s, 3H), 2.72-2.67 (c, 2H), 1.50 (s, 9H); MS (APCI) 382 (MH+).

reactant | 3-oxo-2-quinoxalin-2-yl-1,2,3,4,6,7-hexahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(CC1)NN(C2=O)C2=NC1=CC=CC=C1N=C2 | C19H21N5O3
reactant | sodium hydride | 1.02 mmol, 41 mg | [H-].[Na+]
reactant | iodomethane | 0.82 mmol, 51 μL | IC | CH3I
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-Methyl-3-oxo-2-quinoxalin-2-yl-1,2,3,4,6,7-hexahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 164 mg, 63% | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N(C2=O)C2=NC1=CC=CC=C1N=C2)C | C20H23N5O3
